US06995162B2
2-Bromomethyl-4-nitro-1-pentafluoroethyl-benzene
2-Methyl-4-nitro-1-pentafluoroethyl-benzene (2.55 g) was dissolved in CCl4 (30 ml) and AIBN (164 mg) and NBS (1.96 g) were added. The reaction was heated to reflux and stirred for 24 h. The mix was diluted with CH2Cl2, washed with sat'd NaHCO3, dried over MgSO4 and concentrated to give the compound as an oil which was used without further purification.

reactant | 2-Methyl-4-nitro-1-pentafluoroethyl-benzene | 2.55 g | CC1=C(C=CC(=C1)[N+](=O)[O-])C(C(F)(F)F)(F)F | C9H6F5NO2
reactant | AIBN | 164 mg | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
reactant | NBS | 1.96 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | CCl4 | 30 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 2-Bromomethyl-4-nitro-1-pentafluoroethyl-benzene | BrCC1=C(C=CC(=C1)[N+](=O)[O-])C(C(F)(F)F)(F)F | C9H5BrF5NO2
